US04039612
A mixture of ethanol (1685 parts), water (210 parts), hydrochloric acid (density 1.18 g. ml.) (20 parts) and iron powder (820 parts) was stirred vigorously and boiled for 1 hour when an ethanolic (420 parts) solution of 4-methyl-2-nitro-N-nonylaniline (575 parts) was added during 30 minutes. The mixture was boiled for 15 hours when sodium hydroxide solution (density 1.35 g. ml.) (20 parts) were added and the mixture was filtered while still hot and the residue was washed with boiling ethanol. After removal of the solvent from the combined filtrate and washings the residual oil was distilled under reduced pressure to give 4-methyl-2-amino-N-nonylaniline (390 parts) as a pale yellow oil, boiling point 176° C. at 0.7 mm, which solidified on cooling.

reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | 1.18 g | Cl | ClH
reactant | 4-methyl-2-nitro-N-nonylaniline | CC1=CC(=C(NCCCCCCCCC)C=C1)[N+](=O)[O-] | C16H26N2O2
reactant | sodium hydroxide | 1.35 g | [OH-].[Na+]
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 4-methyl-2-amino-N-nonylaniline | CC1=CC(=C(NCCCCCCCCC)C=C1)N | C16H28N2
